US05232924
Synthesis of 3-(2-Methanesulfonyloxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione
To an ice-cooled solution of 1.80 g of 3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione prepared in Reference Example 27 and 1.20 g of triethylamine in 25 ml of acetonitrile, 1.17 g of methanesufonyl chloride was added dropwise. After stirring for 30 minutes, the mixture was concentrated to dryness, and the residue was extracted with chloroform. Concentration of the chloroform solution gave 2.34 g of the entitled compound as an yellow oil.

reactant | 3-(2-hydroxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione | 1.80 g | OCCN1C(N=C2N(C1=O)CCCC2)=O | C9H13N3O3
reactant | triethylamine | 1.20 g | C(C)N(CC)CC | C6H15N
reactant | methanesufonyl chloride | 1.17 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-(2-Methanesulfonyloxyethyl)-6,7,8,9-tetrahydro-2H-pyrido[1,2-a]-1,3,5-triazine-2,4(3H)-dione | 2.34 g | CS(=O)(=O)OCCN1C(N=C2N(C1=O)CCCC2)=O | C10H15N3O5S
